US04752326
Preparation of 1-(2,4-dichloro-5-propargyloxyphenyl)-3,5-dimethyl-4-chloropyrazole (Compound No. 140) (Process C)
1-(2,4-dichloro-5-hydroxyphenyl)-3,5-dimethyl-4-chloropyrazole (29.2 g) and propargyl bromide (12.0 g) were added to a solution of sodium methoxide which was previously prepared from metallic sodium (2.3 g) and methanol (200 ml). The resulting mixture was heated under reflux, with stirring for 3 hours. To the reaction mixture, after cooling, were added water and toluene to form two layers. The toluene layer as formed was separated, washed with water and then dried over anhydrous sodium sulfate. Removal of the solvent by distillation in vacuo gave the titled compound (30.1 g) as a pale brown crystalline solid. Recrystallization of this solid from a mixture of cyclohexane/acetone afforded a white crystalline solid. m.p. 156.5°-158° C.

reactant | 1-(2,4-dichloro-5-hydroxyphenyl)-3,5-dimethyl-4-chloropyrazole | 29.2 g | ClC1=C(C=C(C(=C1)Cl)O)N1N=C(C(=C1C)Cl)C | C11H9Cl3N2O
reactant | propargyl bromide | 12.0 g | C(C#C)Br | C3H3Br
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 2.3 g | [Na] | Na
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | methanol | 200 ml | CO | CH4O
product | 1-(2,4-dichloro-5-propargyloxyphenyl)-3,5-dimethyl-4-chloropyrazole | 30.1 g | ClC1=C(C=C(C(=C1)Cl)OCC#C)N1N=C(C(=C1C)Cl)C | C14H11Cl3N2O
